US04064126
To recap, this invention involves: converting trichloroacetyl chloride with ketone to γ,γ ,γ -trichloroacetoacetyl chloride, adding the reaction mixture to urea dissolved in a polar organic solvent, e.g., acetic acid; evaporating out the resulting 6-trichloromethyluracil; and hydrolyzing the 6-trichloromethyluracil to form orotic acid.

reactant | trichloroacetyl chloride | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | γ,γ ,γ -trichloroacetoacetyl chloride | ClC(C(CC(=O)Cl)=O)(Cl)Cl | C4H2Cl4O2
reactant | urea | NC(=O)N | CH4N2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | orotic acid | C(C1=CC(=O)NC(=O)N1)(=O)O | C5H4N2O4
